US08008322B2
2-(4-Aminophenyl)-4-chloronicotinonitrile is reacted with 2,4-dimethoxyphenyl isocyanate under conditions similar to those described in Example 27. 1-[4-(4-Chloro-3-cyanopyrid-2-yl)phenyl]-3-(2,4-dimethoxyphenyl)urea is obtained in the form of a white solid, the characteristics of which are as follows:

reactant | 2-(4-Aminophenyl)-4-chloronicotinonitrile | NC1=CC=C(C=C1)C1=C(C#N)C(=CC=N1)Cl | C12H8ClN3
reactant | 2,4-dimethoxyphenyl isocyanate | COC1=C(C=CC(=C1)OC)N=C=O | C9H9NO3
product | 1-[4-(4-Chloro-3-cyanopyrid-2-yl)phenyl]-3-(2,4-dimethoxyphenyl)urea | ClC1=C(C(=NC=C1)C1=CC=C(C=C1)NC(=O)NC1=C(C=C(C=C1)OC)OC)C#N | C21H17ClN4O3
